US07179804B2
[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-methanol
Dissolve 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methyl ester (10.0 g) in MeOH (110 mL). Add NaBH4 (2.64 g, 3 eq) and warm to reflux overnight (70° C.). Cool to RT and slowly pour into a separatory funnel containing an equal volume of water; extract with CH2Cl2. Dry the organic layer, concentrate, and recrystallize from EtOAc/Hexanes to give 7.0 g (75%) of the title compound. MS (ES) 403.2 (M+1); 1H NMR: (400 MHz, CD3OD) δ: 8.65 (dd, J=5.2, 1.6 Hz, 1H) 8.53–8.52 (m, 1H), 7.89 (s, 1H), 7.86–7.83 (m, 1H), 7.60 (s, 2H), 7.56–7.53 (m, 1H), 5.83 (s, 2H), 4.59 (s, 2H).

reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | 10.0 g | COC(=O)C=1N=NN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C18H12F6N4O2
reactant | NaBH4 | 2.64 g, 3 eq | [BH4-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 110 mL | CO | CH4O
product | [1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-methanol | 7.0 g, 75% | FC(C=1C=C(CN2N=NC(=C2C=2C=NC=CC2)CO)C=C(C1)C(F)(F)F)(F)F | C17H12F6N4O
